US03965015
Preparation of 1-octadecyl-3-(aminooctyl) urea
36 grams (.25 mole) of 1,8 diaminooctane was reacted with 20 gms (0.068 mole) octadecyl isocyanate as in Example 2. Yield: 26.6 gms, melting point 120°-145°-156°C.

reactant | 1,8 diaminooctane | .25 mole, 36 grams | NCCCCCCCCN | C8H20N2
reactant | octadecyl isocyanate | 0.068 mole, 20 gms | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
product | 1-octadecyl-3-(aminooctyl) urea | C(CCCCCCCCCCCCCCCCC)NC(=O)NCCCCCCCCN | C27H57N3O
